US08445510B2
trans-4-(4-Iodo-5-methyl-1H-pyrazol-1-yl)cyclohexanamine
To a solution of cis-4-(4-iodo-5-methyl-1H-pyrazol-1-yl)cyclohexanol (400.0 mg, 1.306 mmol), triethylamine (0.5463 mL, 3.920 mmol) and DCM (10 mL, 200 mmol) was added methanesulfonyl chloride (0.2022 mL, 2.613 mmol), and the reaction was stirred at rt for 2 h. The material was extracted with DCM and water, which was titrated to pH=5. The organic layer was concentrated in vacuo, redissolved in DMF (5 mL, 60 mmol), and sodium azide (169.9 mg, 2.613 mmol) was added. The mixture was heated to 90° C. for 3 h. The material was extracted with EtOAc, and washed with water (2×). The organic layer was concentrated in vacuo, redissolved in 1,4-dioxane (5 mL, 60 mmol), and PPh3 (514.0 mg, 1.960 mmol) was added. The mixture was heated to 70° C. for 3 h. The solvent was removed in vacuo, and the material was extracted with DCM and water, which was titrated to pH=2. The organic layer was discarded, more DCM was added, and the aqueous layer was titrated to pH=9. The organic layer was concentrated in vacuo to afford the title compound as a light yellow solid. MS (ES+): m/z=306.04 (100) [MH+]. HPLC: tR=0.89 min (polar—3 min, UPLC-ACQUITY).

reactant | cis-4-(4-iodo-5-methyl-1H-pyrazol-1-yl)cyclohexanol | 1.306 mmol, 400.0 mg | IC=1C=NN(C1C)[C@H]1CC[C@H](CC1)O | C10H15IN2O
reactant | triethylamine | 3.920 mmol, 0.5463 mL | C(C)N(CC)CC | C6H15N
reactant | DCM | 200 mmol, 10 mL | C(Cl)Cl | CH2Cl2
reactant | methanesulfonyl chloride | 2.613 mmol, 0.2022 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | DMF | 60 mmol, 5 mL | CN(C)C=O | C3H7NO
reactant | sodium azide | 2.613 mmol, 169.9 mg | [N-]=[N+]=[N-].[Na+]
reactant | 1,4-dioxane | 60 mmol, 5 mL | O1CCOCC1 | C4H8O2
reactant | PPh3 | 1.960 mmol, 514.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | trans-4-(4-Iodo-5-methyl-1H-pyrazol-1-yl)cyclohexanamine | IC=1C=NN(C1C)[C@@H]1CC[C@H](CC1)N | C10H16IN3
